US09278931B2
A) tert-butyl {trans-2-[4-({[3-(piperidin-1-yl)phenyl]carbonyl}amino)phenyl]cyclopropyl}carbamate
To a solution of tert-butyl [trans-2-(4-aminophenyl)cyclopropyl]carbamate (105 mg) described in a document (J. Am. Chem. Soc., 2010, 132, 6827.) in acetonitrile (3 mL) were added 3-(piperidin-1-yl)benzoic acid (105 mg) described in a document (J. Med. Chem. 1997, 40, 331.), N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride (81 mg), 1-hydroxybenzotriazole (57.2 mg) and triethylamine (59 μL). The mixture was stirred at room temperature overnight and water was added. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (142 mg).

reactant | tert-butyl [trans-2-(4-aminophenyl)cyclopropyl]carbamate | 105 mg | NC1=CC=C(C=C1)[C@H]1[C@@H](C1)NC(OC(C)(C)C)=O | C14H20N2O2
reactant | 3-(piperidin-1-yl)benzoic acid | 105 mg | N1(CCCCC1)C=1C=C(C(=O)O)C=CC1 | C12H15NO2
reactant | N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride | 81 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 57.2 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | triethylamine | 59 μL | C(C)N(CC)CC | C6H15N
product | tert-butyl {trans-2-[4-({[3-(piperidin-1-yl)phenyl]carbonyl}amino)phenyl]cyclopropyl}carbamate | 142 mg | N1(CCCCC1)C=1C=C(C=CC1)C(=O)NC1=CC=C(C=C1)[C@H]1[C@@H](C1)NC(OC(C)(C)C)=O | C26H33N3O3
